US09193749B2
Step 1: 3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (442)
The chroman-4-one (5.0 g, 33.8 mmol) was dissolved in sulfuric acid (10 mL) and the mixture was cooled at 0° C. Sodium azide (2.88 g, 44.3 mmol) was added portionwise followed by some sulfuric acid (5 mL). The reaction mixture was stirred at room temperature over night. The mixture was then pour into ice-water and basified to pH=7 with potassium hydroxide pellets. This aqueous layer was extracted with ether (twice).

reactant | chroman-4-one | 33.8 mmol, 5.0 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | Sodium azide | 44.3 mmol, 2.88 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | O1CCNC(C2=C1C=CC=C2)=O | C9H9NO2
